ROM flasher channel 26; sol26
.include /home/lolz0r/repros/wpc_power_driver_cost/variants/jlcpcb-100/tools/spice/models.lib
Vcmd cmd 0 PWL(
+ 0.000000000000 0.00
+ 9.801702480000 0.00
+ 9.801702500000 4.50
+ 9.841600480000 4.50
+ 9.841600500000 0.00
+ 10.164396480000 0.00
+ 10.164396500000 4.50
+ 10.199999980000 4.50
+ 10.200000000000 0.00
+ 10.200000020000 0.00
+ 10.230000000000 0.00
+ )
Ro cmd a 40
Rg a gate 100
Rpd gate 0 10k
Vsense drain dq 0
XQ dq gate 0 J100_AOD66923
Vclamp clamprail 0 30
Vdiode drain da 0
Dfly da clamprail DS3M
Vlamp clamprail feed 0
Rwire feed wire .1
Lwire wire lp 100u
Blamp lp drain I=3*v(lp,drain)/(1.8+16.2*max(v(theta),0))
Bheat 0 theta I=(v(lp,drain)^2/(1.8+16.2*max(v(theta),0)))/(169/18)
Ctheta theta 0 8m
Rtheta theta 0 1
.save v(drain) v(gate) i(Vsense) i(Vdiode) @dfly[capcur]
.options reltol=.002 method=gear
.tran 100u 10.230000000 0 10u
.control
run
let pfet=v(drain)*i(Vsense)
let carrier=i(Vdiode)-@dfly[capcur]
let forward=(abs(carrier)+carrier)/2
let sim_end=time[length(time)-1]
print sim_end
meas tran vds_peak MAX v(drain)
meas tran vgs_peak MAX v(gate)
meas tran current_peak MAX i(Vsense)
meas tran current_avg AVG i(Vsense) from=0.200000000 to=10.200000000
meas tran diode_average AVG forward from=0.200000000 to=10.200000000
meas tran power_average AVG pfet from=0.200000000 to=10.200000000
let tj=50+power_average*62
print tj
.endc
.end
